US06440440B1
12.5 g of acetyl-4-piperidinecarbonyl chloride were added portionwise to a mixture of 10 g of 4-fluoro-1,1′-biphenyl, 17.5 g of aluminum-(III)-chloride and 60 g of 1,2-di-chloroethane. Upon completion, stirring was continued for 1 hour at reflux temperature. The reaction mixture was poured into a mixture of crushed ice and hydrochloric acid. The product was extracted with DCM. The extract was dried, filtered and evaporated. The residue was crystallized from 2-propanol. The product was filtered off and dried, yielding 15 g (80.8%) of 1-acetyl-4-[(4′-fluoro-[1,1′-biphenyl]-4-yl]carbonyl]piperidine (interm. 3).

reactant | acetyl-4-piperidinecarbonyl chloride | 12.5 g | C(C)(=O)N1CCC(CC1)C(=O)Cl | C8H12ClNO2
reactant | 4-fluoro-1,1′-biphenyl | 10 g | FC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9F
reactant | aluminum-(III)-chloride | 17.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | 1,2-di-chloroethane | 60 g | ClCCCl | C2H4Cl2
product | 1-acetyl-4-[(4′-fluoro-[1,1′-biphenyl]-4-yl]carbonyl]piperidine | 15 g, 80.8% | C(C)(=O)N1CCC(CC1)C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)F | C20H20FNO2
